US09302989B2
N-[4-(1-isobutyrylpiperidin-4-yl)phenyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
N-[4-(1-isobutyryl-1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide (50 mg, 0.128 mmol) and methanol (10 ml) were added to 5% Pd—C, wet (10.00 mg, 0.094 mmol) in a 50 ml pressure bottle and stirred for 16 hours at 30 psi and room temperature. The mixture was filtered through a nylon membrane and concentrated. Chromatography provided the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.60 (s, 1H), 8.50 (d, J=5.0 Hz, 1H), 8.35 (s, 1H), 7.49-7.40 (m, 3H), 7.13 (m, 2H), 4.79 (m, 4H), 4.56 (m, 1H), 4.05 (m, 1H), 3.12 (m, 1H), 2.90 (m, 1H), 2.71 (m, 1H), 2.57 (m, 1H), 1.79 (m, 2H), 1.55-1.30 (m, 2H), 1.02 (m, 6H); MS (ESI(+)) m/e 393 (M+H)+.

reactant | N-[4-(1-isobutyryl-1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | 0.128 mmol, 50 mg | C(C(C)C)(=O)N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C23H26N4O2
catalyst | Pd—C | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | N-[4-(1-isobutyrylpiperidin-4-yl)phenyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | C(C(C)C)(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C23H28N4O2
